US07125904B2
(S)-5-(3-aminopropyl)-1-(5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione hydrochloride (compound 5, table 1)
A stirred mixture of (S)-5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl amine hydrochloride (0.22 g, 1.0 mmol), 2-[5-(tert-butyldimethylsilanyloxy)-4-oxopentyl]isoindole-1,3-dione (0.38 g, 1.05 mmol), potassium thiocyanate (0.11 g, 1.10 mmol), water (0.18 g, 1.0 mmol) and acetic acid (0.3 mL, 5.0 mmol) in ethyl acetate (3 mL) was refluxed for 7 hours, cooled to room temperature, washed by sodium bicarbonate solution, dried over anhydrous magnesium sulphate and evaporated in vacuo. The residue was purified by column chromatography on silica using ethyl acetate-petroleum ether mixture as eluent. The resulting oil (0.18 g) was dissolved in a mixture of isopropanol (5 mL) and THF (2 mL). Water (0.8 mL) and sodium borohydride (0.066 g, 1.74 mmol) were added at room temperature and the mixture was stirred for 1.5 hours. Acetic acid (0.6 ml, 10 mmol) was added and the solution was refluxed for two hours then evaporated in vacuo to dryness. The residue was taken up into acetone, the solid was filtered off, and the filtrate was acidified with 2N HCl solution in ethyl acetate. The precipitate was collected and washed with acetone to afford crystals, which decomposed without melting.

reactant | (S)-5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl amine hydrochloride | 1.0 mmol, 0.22 g | Cl.FC1=C2CC[C@@H](CC2=CC(=C1)F)N
reactant | 2-[5-(tert-butyldimethylsilanyloxy)-4-oxopentyl]isoindole-1,3-dione | 1.05 mmol, 0.38 g | [Si](C)(C)(C(C)(C)C)OCC(CCCN1C(C2=CC=CC=C2C1=O)=O)=O | C19H27NO4Si
reactant | potassium thiocyanate | 1.10 mmol, 0.11 g | [S-]C#N.[K+]
reactant | acetic acid | 5.0 mmol, 0.3 mL | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 1.74 mmol, 0.066 g | [BH4-].[Na+]
reactant | Acetic acid | 10 mmol, 0.6 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
solvent | Water | 0.8 mL | O | H2O
solvent | water | 1.0 mmol, 0.18 g | O | H2O
product | (S)-5-(3-aminopropyl)-1-(5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione hydrochloride | Cl.NCCCC1=CNC(N1[C@@H]1CC2=CC(=CC(=C2CC1)F)F)=S | InChI=1S/C16H19F2N3S.ClH/c17-11-6-10-7-12(3-4-14(10)15(18)8-11)21-13(2-1-5-19)9-20-16(21)22;/h6,8-9,12H,1-5,7,19H2,(H,20,22);1H/t12-;/m0./s1
